US04602027
To a suspension of o-chlorocinnamic acid (9.1 g) in dichloromethane (200 ml) was added triethylamine (21 ml) for dissolution. With cooling with ice-sodium chloride and stirring, ethyl chlorocarbonate (5.0 ml) was added dropwise to the above-obtained solution, and the mixture was further stirred for 10 minutes. To the resulting mixed acid anhydride solution was added portionwise ethyl 2-aminoacetoacetate hydrochloride (9.05 g) and the mixture was stirred under cooling for 20 minutes and at room temperature for 40 minutes. The reaction mixture was washed with diluted hydrochloric acid, water, aqueous sodium hydrogen carbonate and water in that order and dried over anhydrous magnesium sulfate. The solvent was then distilled off and the residue was dissolved in toluene (100 ml). Phosphorus oxychloride (14 ml) was added and the mixture was refluxed for an hour. The solvent and phosphorus oxychloride were distilled off under reduced pressure, and the residue was neutralized with aqueous sodium hydrogen carbonate and extracted with ethyl ether. The ethyl ether layer was washed with water and dried over anhydrous magnesium sulfate. The solvent was distilled off and the residue was treated with isopropyl ether to give ethyl 2-(2- chlorostyryl)-5-methyl-4-oxazolecarboxylate as crystals; yield 6.4 g (44.1%). Recrystallization from ethanol gave yellow prisms melting at 99°-100° C.

reactant | o-chlorocinnamic acid | 9.1 g | ClC1=C(C=CC(=O)O)C=CC=C1 | C9H7ClO2
reactant | triethylamine | 21 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl chlorocarbonate | 5.0 ml | C(OCC)(=O)Cl | C3H5ClO2
reactant | ethyl 2-aminoacetoacetate hydrochloride | 9.05 g | Cl.NC(C(=O)OCC)C(=O)C
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | ethyl 2-(2- chlorostyryl)-5-methyl-4-oxazolecarboxylate | ClC1=C(C=CC=2OC(=C(N2)C(=O)OCC)C)C=CC=C1 | C15H14ClNO3
